US07776897B2
Benzyl 3-[1-(5-chloro-2-thienyl)cyclopentyl]-5,6,8,9-tetrahydro-7H-[1,2,4]triazolo[4,3-d][1,4]diazepine-7-carboxylate (565 mg) was dissolved in a mixed solvent of methanol (10 ml) and 1,4-dioxane (5 ml). After palladium hydroxide (86 mg) was added thereto, the whole was stirred under a hydrogen atmosphere of 1 atm at room temperature for 48 hours to obtain 3-[1-(2-thienyl)cyclopentyl]-6,7,8,9-tetrahydro-5H-[1,2,4]triazolo[4,3-d][1,4]diazepine (190 mg).

reactant | Benzyl 3-[1-(5-chloro-2-thienyl)cyclopentyl]-5,6,8,9-tetrahydro-7H-[1,2,4]triazolo[4,3-d][1,4]diazepine-7-carboxylate | 565 mg | ClC1=CC=C(S1)C1(CCCC1)C1=NN=C2N1CCN(CC2)C(=O)OCC2=CC=CC=C2 | C23H25ClN4O2S
solvent | methanol | 10 ml | CO | CH4O
solvent | 1,4-dioxane | 5 ml | O1CCOCC1 | C4H8O2
catalyst | palladium hydroxide | 86 mg | [OH-].[Pd+2].[OH-]
product | 3-[1-(2-thienyl)cyclopentyl]-6,7,8,9-tetrahydro-5H-[1,2,4]triazolo[4,3-d][1,4]diazepine | 190 mg | S1C(=CC=C1)C1(CCCC1)C1=NN=C2N1CCNCC2 | C15H20N4S
